US04474793
Methyl (4-allylthio-3-ethylazetidin-2-on-1-yl)acetate
To a solution of 2.34 g of 4-allylthio-3-ethylazetidinone in 20 ml of redistilled dimethylformamide were added 1.37 ml of methyl bromoacetate and 4.16 g of ground potassium carbonate. The solution was stirred overnight then filtered through a pad of Hyflo, (Hyflo being a Trade Mark), poured into 75 ml of water, and extracted five times with ethyl acetate. The combined organic extracts were washed with water, dried over magnesium sulphate, and evaporated in vacuo to give the title compound. (Yield 3 g)

reactant | 4-allylthio-3-ethylazetidinone | 2.34 g | C(C=C)SC1C(C(N1)=O)CC | C8H13NOS
reactant | methyl bromoacetate | 1.37 ml | BrCC(=O)OC | C3H5BrO2
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
product | Methyl (4-allylthio-3-ethylazetidin-2-on-1-yl)acetate | C(C=C)SC1C(C(N1CC(=O)OC)=O)CC | C11H17NO3S
